US04421758
(b) 1-{Trans-β-[6-(4-chlorobenzylthiomethyl)tetrahydropyran-2-yloxy]-2,4-dichlorophenethyl}imidazole
130 mg of the isomer of lesser polarity of trans-6-(4-chlorobenzylthiomethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran, 67.5 mg of imidazole and 74 mg of sodium iodide were reacted in dimethylformamide at 130° C. for 9 hours and then treated and the product purified essentially as described in Example 34(b)(i), to give 60 mg of the title compound in the form of a colourless oil.

reactant | trans-6-(4-chlorobenzylthiomethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran | ClC1=CC=C(CSC[C@H]2CCC[C@@H](O2)OC(CBr)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C21H22BrCl3O2S
reactant | imidazole | 67.5 mg | N1C=NC=C1 | C3H4N2
reactant | sodium iodide | 74 mg | [I-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-{Trans-β-[6-(4-chlorobenzylthiomethyl)tetrahydropyran-2-yloxy]-2,4-dichlorophenethyl}imidazole | 60 mg | ClC1=CC=C(CSC[C@H]2CCC[C@@H](O2)OC(CN2C=NC=C2)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C24H25Cl3N2O2S
